US09056859B2
To a solution of ethyl 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylate (1.6 g, 4.5 mmol) in 25 mL of MeOH/THF/H2O (2/2/1) was added LiOH.H2O (700 mg, 18.3 mmol), and the mixture was stirred at ambient temperature for 30 min. The solvents were removed under vacuum, and the residue was added 50 mL of water and extracted with ether. The aqueous layer was then acidified with 4 N HCl to pH=3 in ice bath, and extracted with EtOAc. The combined organic phase was washed with brine, dried over anhydrous sodium sulfate and concentrated to afford 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylic acid.

reactant | ethyl 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylate | 4.5 mmol, 1.6 g | FC=1C(=C2CCOC(C2=CC1)C(=O)OCC)I | C12H12FIO3
reactant | LiOH.H2O | 18.3 mmol, 700 mg | O[Li].O
solvent | MeOH THF H2O | 25 mL | CO.C1CCOC1.O
product | 6-fluoro-5-iodo-3,4-dihydro-1H-isochromene-1-carboxylic acid | FC=1C(=C2CCOC(C2=CC1)C(=O)O)I | C10H8FIO3
